US05116974
Preparation of 3-carbethoxyamino-5-methylamino-acetyl-10,11-dihydro-5H-dibenz[b,f]azepine
12 g, 0.033 moles of 3-carbethoxyamino-5-chloroacetyl-5H-dibenz[b,f]azepine (hereafter referred to as "Startazepine 5") is suspended in 150 ml of ethanol. About 50 ml of an approximately 35% aqueous methylamine solution (about 0.5 moles of CH3NH2) are added and the mixture is stirred for 5 hours at 50° C. to 60° C., a clear, light yellow solution is formed. The reaction mixture is concentrated under vacuum to half the volume and then mixed with copious amounts of water. The oily precipitated base is extracted with chloroform (2×50 ml) and the organic phase is washed with water, dried over sodium sulfate and distilled to dryness under vacuum. A crystalline mass remains, which melts at 148° C. to 153° C., representing a yield of 7.2 g.

reactant | 3-carbethoxyamino-5-chloroacetyl-5H-dibenz[b,f]azepine | 0.033 moles, 12 g | C(=O)(OCC)NC=1C=CC2=C(N(C3=C(C=C2)C=CC=C3)C(CCl)=O)C1 | C19H17ClN2O3
reactant | methylamine | about 0.5 moles | CN | CH5N
reactant | ethanol | 150 ml | C(C)O | C2H6O
product | 3-carbethoxyamino-5-methylamino-acetyl-10,11-dihydro-5H-dibenz[b,f]azepine | C(=O)(OCC)NC=1C=C(C2=C(N(C3=C(CC2)C=CC=C3)NC)C1)C(C)=O | C20H23N3O3
